US05025031
4-(1-Methyl-1H-imidazol-2-yl)phenol
Hydrogen chloride gas was bubbled through a chilled solution of p-cyanophenol (30 g, 0.25 mole) in methanol (120 mo) for 70 min. The heavy suspension was stoppered and stirred overnight. After cooling in an ice bath, the solid was collected by filtration and rinsed twice with cold methanol. The solid was dried under nitrogen to give 46.56 g. The solid iminoether was resuspended in methanol (150 ml) and treated with methylamino acetaldehyde dimethyl acetal (42 ml, 0.325 m) and then heated at reflux temperature for 3 hr. The reaction was then concentrated to an oil which was redissolved in 2N hydrochloric acid solution (200 ml). The solution was then concentrated to remove the methanol and the resulting aqueous solution was extracted twice with methylene chloride and then made basic first with 50% sodium hydroxide solution and finishing up with 10% sodium bicarbonate solution. The solid was collected and rinsed with water, 2-propanol and isopropyl ether. The solid was dissolved in methanol, treated with charcoal and filtered. The filtrate was partially concentrated by boiling and replacing the methanol with 2-propanol, from which a white, crystalline solid precipitated out of solution. The solid was filtered and dried (14.4 g, 0.083 mole, 66.7% yield, mp 239°-242° C.).

reactant | Hydrogen chloride | Cl | ClH
reactant | p-cyanophenol | 0.25 mole, 30 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | iminoether | N=O | HNO
reactant | methylamino acetaldehyde dimethyl acetal | 42 ml | COC(CNC)OC | C5H13NO2
reactant | methanol | CO | CH4O
reactant | methanol | 150 ml | CO | CH4O
product | 4-(1-Methyl-1H-imidazol-2-yl)phenol | 66.7% yield | CN1C(=NC=C1)C1=CC=C(C=C1)O | C10H10N2O
